US07271406B2
2-Bromo-9,9-bis(3,6-dioxaheptyl)-fluorene was synthesized from bromo-2-(2-methoxyethoxy)ethane and 2-bromofluorene by methods described in Part A of Example 5.

reactant | bromo-2-(2-methoxyethoxy)ethane | BrCCOCCOC | C5H11BrO2
reactant | 2-bromofluorene | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
product | 2-Bromo-9,9-bis(3,6-dioxaheptyl)-fluorene | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CCOCCOC)CCOCCOC | C23H29BrO4
